US05574178
N-Chlorosuccinimide (150 mg) was suspended in dichloromethane (4 ml). After adding dimethyl sulfide (0.1 ml) dropwise at -5° C., the suspension was stirred for 15 min. Subsequently, a solution of 5-acetoxy-4,6-di-tert-butyl-2-(5-hydroxy-4-methyl-3(E)-pentenyl)-2-methyl-2,3-dihydrobenzofuran (0.4 g) in dichloromethane (1 ml) was added dropwise and the resulting mixture was stirred at -5° C. for 90 min. After the end of the reaction, dichloromethane was distilled off under reduced pressure and the concentrate was purified by silica gel chromatography (25% ethyl acetate in n-hexane) to afford 5-acetoxy-2-(5-chloro-4-methyl-3(E)-pentenyl)-4,6-di-tert-butyl-2-methyl-2,3-dihydrobenzofuran [0.3 g (yield, 70%)] as a colorless oil.

reactant | N-Chlorosuccinimide | 150 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 0.1 ml | CSC | C2H6S
reactant | 5-acetoxy-4,6-di-tert-butyl-2-(5-hydroxy-4-methyl-3(E)-pentenyl)-2-methyl-2,3-dihydrobenzofuran | 0.4 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CC\C=C(\CO)/C)C1C(C)(C)C)C(C)(C)C | C25H38O4
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-acetoxy-2-(5-chloro-4-methyl-3(E)-pentenyl)-4,6-di-tert-butyl-2-methyl-2,3-dihydrobenzofuran | 0.3 g, 70% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CC\C=C(\CCl)/C)C1C(C)(C)C)C(C)(C)C | C25H37ClO3
